US07166603B2
183G: 6-(2-Azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-{3-[methyl-(3-phenyl-propionyl)-amino]-propyl}-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid ethyl ester
To a solution of crude 6-(2-azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-(3-methylamino-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester (40 mg, 0.89 mmol) in CH2Cl2 (2 mL) was added triethylamine (25 μl, 18 mg, 0.179 mmol) followed by a solution of hydrocinnamoyl chloride (25 mg, 0.148 mmol) in CH2Cl2 (0.5 ml). After 3 h, the mixture was taken up in EtOAc (50 mL) and then washed with H2O (25 mL) and brine (25 mL). The organic extract was dried (Na2SO4), filtered, concentrated in vacuo. The crude product was purified by chromatography using the ISCO Combiflash SQ16× (35 g Redisep silica gel, 20 to 100% EtOAC in hexanes for 20 min, hold at 100% EtOAc for 15 min at 30 mL/min) to afford 27.6 mg (53%) of the purified material as a thick oil.

reactant | 6-(2-azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-(3-methylamino-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester | 0.89 mmol, 40 mg | C(C)OC(=O)C=1C(N(C(NC1COCCN=[N+]=[N-])=O)CCCNC)C1=C(C=CC=C1)Cl | C20H27ClN6O4
reactant | triethylamine | 0.179 mmol, 25 μl, 18 mg | C(C)N(CC)CC | C6H15N
reactant | hydrocinnamoyl chloride | 0.148 mmol, 25 mg | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 6-(2-Azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-{3-[methyl-(3-phenyl-propionyl)-amino]-propyl}-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid ethyl ester | 27.6 mg, 53% | C(C)OC(=O)C=1C(N(C(NC1COCCN=[N+]=[N-])=O)CCCN(C(CCC1=CC=CC=C1)=O)C)C1=C(C=CC=C1)Cl | C29H35ClN6O5
